US05719141
5(S)-Amino-4(S)-hydroxy-6-[1-[3(R,S)-methylaminocarbonyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonylmethyl]cyclopropyl]-2(R)-methyl-hexanoic acid (N-butyl)amide
2 ml of 4N hydrochloric acid in dioxane are added to 116 mg of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-6-[1-[3(R,S)-methylaminocarbonyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonylmethyl]cyclopropyl]-2(R)-methyl-hexanoic acid (N-butyl)amide at 0° C. and the mixture is stirred for 2 h. 2 ml of toluene are added and the reaction mixture is concentrated. The oily residue is chromatographed over 10 g of silica gel (mobile phases K and L). This gives the title compound as a diastereomer mixture: Rf (P)=0.11; Rt (IV)=32.6 min; FAB-MS: (M+H)+ =487.

reactant | hydrochloric acid | 4N, 2 ml | Cl | ClH
reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-6-[1-[3(R,S)-methylaminocarbonyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonylmethyl]cyclopropyl]-2(R)-methyl-hexanoic acid (N-butyl)amide | 116 mg | C(CCC)NC([C@@H](C[C@@H]([C@H](CC1(CC1)CC(=O)N1CC(CC2=CC=CC=C12)C(=O)NC)NC(=O)OC(C)(C)C)O)C)=O | C32H50N4O6
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5(S)-Amino-4(S)-hydroxy-6-[1-[3(R,S)-methylaminocarbonyl-1,2,3,4-tetrahydroquinolin-1-ylcarbonylmethyl]cyclopropyl]-2(R)-methyl-hexanoic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@@H]([C@H](CC1(CC1)CC(=O)N1CC(CC2=CC=CC=C12)C(=O)NC)N)O)C)=O | C27H42N4O4
